* sg13g2-bandgap -- bandgap_startup PEX (post-layout) PVT testbench
* (issue #14). Generated from
* sim/startup-trip-point-pex/testbench/tb_startup_trip_point_pex.spice.tmpl
* by sim/startup-trip-point-pex/run_pvt_sweep.sh -- do not edit a generated
* netlist-snapshots/*.spice file directly, edit this template and re-run
* the sweep. Full rationale is in sim/startup-trip-point-pex/README.md.
*
* Generated for: corner=fs temp=-40C vdd=3.30V
* DUT git sha (design/netlist/bandgap_startup.spice, for the spliced-in
* resistor device -- see below):
*   66ac99d
* Layout git sha (layout/bandgap_startup/bandgap_startup.gds, extraction
* input):
*   bf9051c
* PDK: ihp-sg13g2 /home/ubuntu/share/pdk (see sim/pdk.json for the pinned release)
* OSDI models: /home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi (built by sim/tools/build-osdi.sh)
*
* THIS IS A HYBRID PEX NETLIST, NOT A PURE LAYOUT EXTRACTION -- read
* sim/startup-trip-point-pex/README.md "What this does and does not
* model" before trusting a result here. Short version:
*   - XMSENSE/XMKFB (both sg13_hv_nmos) are re-encoded from `klt extract
*     --deck sg13g2 --parasitics layout/bandgap_startup/
*     bandgap_startup.gds` (layout/bandgap_startup/bandgap_startup.pex.spice,
*     pex_extract_report.json): real drawn W/L and junction AS/AD/PS/PD
*     from the routed layout, re-expressed as X-subckt calls to the real
*     sg13_hv_nmos compact model. Their D/G/S node roles match the
*     schematic's own convention exactly (no swap, unlike
*     core-open-loop-bias-pex) -- only the body terminal differs (see
*     below).
*   - **XMSENSE's extracted width is now w=10u, matching the schematic
*     (issue #32).** The committed layout
*     (layout/bandgap_startup/generate.py, issue #11/PR #19) originally
*     drew XMSENSE at w=2u, before decision record 0003 (issue #24/PR #29)
*     widened it to w=10u in design/netlist/bandgap_startup.spice to fix a
*     real 125C startup-release margin bug -- the layout was not
*     regenerated to match until issue #32. This testbench is
*     as-drawn (w=10u): PEX evidence now reflects the corrected, in-sync
*     layout. See sim/startup-trip-point-pex/README.md for the full
*     before/after account.
*   - This direct sns1-sweep methodology (0 -> vdd) does NOT, by itself,
*     reveal decision record 0003's original margin bug either way (at
*     w=2u or w=10u) -- it always reaches full release by the time sns1
*     hits vdd, same limitation sim/startup-trip-point's own (pre-PEX)
*     records already note. Whether the margin bug is present only shows
*     up by comparing this record's `vtrip_v` against
*     sim/core-open-loop-bias-pex's own real `sns1` operating point at the
*     same corner -- see sim/startup-trip-point-pex/README.md
*     "Cross-bench observation" for that comparison, which at the
*     corrected w=10u width now clears at all 45 points (the 4 points that
*     failed at the stale w=2u width -- wcs_125c_{2.97,3.30,3.63}v,
*     sf_125c_3.63v -- now pass).
*   - XRPU (rhigh) is still spliced in verbatim from
*     design/netlist/bandgap_startup.spice, wired to the same real layout
*     net names (vdd/det) the extraction itself reports as real,
*     physically-routed pins -- but as of issue #56 this is a deliberate
*     choice, not a deck limitation anymore: PR #45's resistor marker
*     layers made the sg13g2 deck's `rhigh` recognizer actually match this
*     layout's poly resistor (pex_extract_report.json's device_counts now
*     reads `{"nfet": 2, "rhigh": 1}`, up from `{"nfet": 2}`). This
*     testbench does not yet consume that newly-extracted R$3 (real
*     drawn-geometry resistance 1919368 ohm) -- doing so changes which
*     devices are extracted vs. schematic-sourced, a bigger step than issue
*     #56's re-extraction/re-run scope. See README.md's "Update (issue
*     #56)" section and the follow-on issue it links for the full account.
*   - Both extracted devices' body terminals land on the deck's own
*     synthesized global fallback net (`vsubs` in
*     layout/bandgap_startup/bandgap_startup.pex.spice), not the
*     schematic's real body-tied-to-vss (klayout-tools, filed generically;
*     see layout/README.md's LVS cause 2). This testbench ties body to
*     vss directly, mirroring the schematic's real intent, rather than
*     wiring to a deck-synthesized net this testbench has no independent
*     way to validate.
*   - klayout-tools#1280/#1282 (issue #37) populated the sg13g2 deck's
*     PARASITICS.metals/metal_overlaps coefficient tables (Metal1/Metal2,
*     later the full Metal1-TopMetal2 stack). Re-extracting against the
*     current deck now yields non-zero r_count/c_count -- this run wires
*     in those wire R/C cards verbatim (see "Wire parasitics" below), the
*     first PEX record here to carry them. XMSENSE's gate net \$4 gets no
*     wire model either way (a single-terminal, deck-disconnected net in
*     this isolated cell's own extraction -- the testbench's own `sns1`
*     drive below is a fixture bridging that gap, unchanged by this pass).

.lib "/home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib" mos_fs
.lib "/home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib" res_typ

.options temp=-40 tnom=27

Vvdd vdd 0 dc 3.30
Vvss vss 0 dc 0
* bandgap_startup.spice wires the rhigh bulk terminal to the global
* substrate net `sub!`; tied to vss through a 0 V source here, as in
* sim/startup-trip-point.
Vsub sub! vss dc 0

* FIXTURE 1 -- sns1 stimulus, same convention as sim/startup-trip-point:
* sns1 is bandgap_core's own sense node in the assembled block; here it is
* driven directly so the startup circuit's response can be swept from
* "core is dead" (sns1 = 0) to "core is up" (sns1 = vdd) in one analysis.
Vsns1 sns1 vss dc 0

* FIXTURE 2 -- fb load, same convention as sim/startup-trip-point: nothing
* drives fb high in the design yet (no error amplifier -- issue #9's scope
* cut), so this weak pull-up stands in for whatever eventually holds fb
* high once XMKFB turns off.
Rfbpu vdd fb 10meg

* Resistor -- schematic-sourced, see file header above.
XRPU vdd det sub! rhigh w=1u l=1411.3u m=1 b=0

* Extracted NMOS switches -- see file header above for the body-net
* substitution; XMSENSE's w/as/ad/ps/pd below match the corrected,
* regenerated layout (issue #32; layout/bandgap_startup/pex_extract_report.json).
* Drain/source pins (and XMKFB's gate) are wired to the exact per-terminal
* wire-parasitic hub node names layout/bandgap_startup/bandgap_startup.pex.spice's
* own M$1/M$2 cards use (M$1 = XMSENSE: det__t1/vss__t0; M$2 = XMKFB:
* fb__t0/det__t2/vss__t1 -- issue #56's re-extraction renumbered det's
* per-terminal hub indices from t0/t1 to t1/t2, since `det__t0` is now the
* newly-recognized XRPU/rhigh device's own terminal, see file header) --
* the "Wire parasitics" block below ties each hub back to its real net
* (det/fb/vss) through that file's own series R (+ ground C, no DC effect
* but included for completeness). Body stays vss directly (testbench
* fixture, unchanged -- see file header).
XMSENSE det__t1 sns1 vss__t0 vss sg13_hv_nmos w=10u l=0.5u ng=1 m=1 as=4p ad=4p ps=20.8u pd=20.8u
XMKFB fb__t0 det__t2 vss__t1 vss sg13_hv_nmos w=2u l=0.5u ng=1 m=1 as=0.8p ad=0.8p ps=4.8u pd=4.8u

* Wire parasitics (issue #37, refreshed issue #56) -- verbatim R/C cards
* from layout/bandgap_startup/bandgap_startup.pex.spice's --parasitics
* output (that file's M$1/M$2 cards are already re-encoded above as
* XMSENSE/XMKFB; these are its remaining, non-device cards). Issue #56's
* re-extraction now ALSO reports a rhigh device card (R$3, see file
* header) that this testbench does not instantiate, plus its own isolated
* two-node net (\$5/\$5__t0) -- both omitted below, since nothing else in
* this testbench would connect to them. `det`'s own R/C values below
* reflect the renumbered star split described above. Regenerate this
* block together with the geometry above if the layout or deck ever
* changes.
Rdet_t1 det__t1 det 139.15243699
Rdet_t2 det__t2 det 127.655815568
Cdet det vsubs 1.30736768e-13
Rfb_t0 fb__t0 fb 0.6286
Cfb fb vsubs 2.1056e-16
Rvss_t0 vss__t0 vss 5.4071
Rvss_t1 vss__t1 vss 5.4071
Cvss vss vsubs 2.34311e-15
Rvsubs_dctie vsubs 0 1e+12

.control
pre_osdi /home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/mosvar.osdi
pre_osdi /home/ubuntu/share/pdk/ihp-sg13g2/libs.tech/ngspice/osdi/r3_cmc.osdi
* 1) cold-start state: core dead (sns1 = 0), startup must be engaged.
op
print v(det) v(fb)
* 2) disengage behaviour: sweep the core's sense node up and find where the
*    detect node releases, plus the fully-running-core end state.
dc Vsns1 0 3.30 0.005
meas dc vtrip when v(det)=1.6500 cross=1
meas dc det_off find v(det) at=3.2500
meas dc fb_off find v(fb) at=3.2500
.endc
.end
